US05945382
1.0 g (0.006 mol) of 3-(4-chlorophenyl)-1H-pyrazole are dissolved, at room temperature and with stirring, in 20 ml of acetic acid. 0.5 g (0.007 mol) of chlorine is then introduced into the reaction mixture. The white precipitate formed is filtered, washed with water and heptane and then chromatographed on a silica column (eluent 70/30 heptane/ethyl acetate). 0.7 g (0.002 mol) (yield: 58%, melting point: 158° C.) of 4-chloro-3-(4-chlorophenyl)-1H-pyrazole is obtained.

reactant | 3-(4-chlorophenyl)-1H-pyrazole | 0.006 mol, 1.0 g | ClC1=CC=C(C=C1)C1=NNC=C1 | C9H7ClN2
reactant | chlorine | 0.007 mol, 0.5 g | ClCl | Cl2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 4-chloro-3-(4-chlorophenyl)-1H-pyrazole | 0.002 mol, 0.7 g, yield: 58% | ClC=1C(=NNC1)C1=CC=C(C=C1)Cl | C9H6Cl2N2
